US08629137B2
3-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-oxo-3,4,5,6.1′.6′-hexa-hydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
30 mg palladium on charcoal (Pd/C 10%), 30 mL THF and 30 mL DCM were added to 0.13 g (0.20 mmol) 3-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one in 20 mL MeOH and the mixture was hydrogenated for 1.5 h under a hydrogen atmosphere. After filtration of the reaction mixture the solvent was evaporated down i. vac. The residue was purified by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | THF | 30 mL | C1CCOC1 | C4H8O
reactant | DCM | 30 mL | C(Cl)Cl | CH2Cl2
reactant | 3-[6′-benzyloxy-4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-3,4,5,6-tetrahydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | 0.20 mmol, 0.13 g | C(C1=CC=CC=C1)OC1=CC(=CC(=N1)N1CCC(CC1)N1C(NC2=C(CC1)C=C(C=C2)OC)=O)C(=O)C2=CC1=C(N(C(O1)=O)C)C(=C2)C | C37H37N5O6
catalyst | palladium on charcoal | 30 mg | [Pd] | Pd
solvent | MeOH | 20 mL | CO | CH4O
product | 3-[4′-(3,4-dimethyl-2-oxo-2,3-dihydro-benzoxazole-6-carbonyl)-6′-oxo-3,4,5,6.1′.6′-hexa-hydro-2H-[1,2′]bipyridinyl-4-yl]-7-methoxy-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | CN1C(OC2=C1C(=CC(=C2)C(=O)C=2C=C(NC(C2)=O)N2CCC(CC2)N2C(NC1=C(CC2)C=C(C=C1)OC)=O)C)=O | C30H31N5O6
